* C:\users\altur\My Documents\MyGit\GitRepo\Experimental_setup_schematic\Setup.asc
XU1 input N001 +5 -5 N002 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R1 N002 N001 1.2Meg
R2 N001 0 0.3Meg
R3 N002 0 82k
V1 +5 0 +5
V2 -5 0 -5
V3 input 0 PULSE(0.15 0.3 0 1n 1n 2m 10m)
.tran 0.1
* Ros
* R1(Memeristor)
.lib UniversalOpamps2.sub
.backanno
.end
